US08349827B2
Step 1: Preparation of 2-amino-N,N-dimethylbenzamide
A solution of 2-aminobenzoic acid (1.0 g, 7.3 mmol) in thionyl chloride (20 mL) was refluxed for 3 hours. Excess of thionyl chloride was removed. And the residue was treated with toluene (3×10 mL) to remove the excess thionyl chloride. To the crude product obtained was added THF (20 mL) and the resulting solution was cooled to 0° C. Diethyl amine (3.78 mL, 36 mmol) was added and the resulting solution was stirred for 2 hrs at room temperature. The solvent was removed under reduced pressure and residue was taken into dichloromethane (20 mL), washed with saturated sodium bicarbonate solution (3×20 mL), water (20 mL), dried over sodium sulfate and concentrated to provide the desired product as brown oil. This crude product was used in Step 2 without further purification.

reactant | 2-aminobenzoic acid | 7.3 mmol, 1.0 g | NC1=C(C(=O)O)C=CC=C1 | C7H7NO2
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | Diethyl amine | 36 mmol, 3.78 mL | C(C)NCC | C4H11N
solvent | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
product | 2-amino-N,N-dimethylbenzamide | NC1=C(C(=O)N(C)C)C=CC=C1 | C9H12N2O
